US07598257B2
To a solution of 3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]pentanal (300 mg, 0.0008 mol) in DCM (4 mL, 0.06 mol) cooled at 0° C., triphenylphosphine (800 mg, 0.003 mol) and carbon tetrabromide (500 mg, 0.002 mol) were added. The reaction was stirred at 0° C. for 10 min, water was added and extracted with ethyl acetate. The combined organic extracts were washed with saturated sodium chloride, dried over magnesium sulfate, filtered and concentrated. The crude product was purified by prep LC-MS (ACN, water, NH4OH) to give 4-[1-(4,4-dibromo-1-ethylbut-3-en-1-yl)-1H-pyrazol-4-yl]-7-[2-(trimethylsilyl)-ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidine as an amorphous solid (50 mg, 10%). 1H NMR (400 MHz, CDCl3): δ 8.9 (s, 2H), 8.4 (s, 1H), 8.3 (s, 1H), 7.4 (m, 1H), 7.3 (s, 1H), 6.9 (m, 1H), 6.4 (m, 1H), 5.7 (s, 2H), 4.2 (m, 1H), 3.6 (m, 2H), 2.8 (m, 2H), 2.1 (m, 1H), 2.0 (m, 1H), 1.0 (m, 5H), LC/MS (M+H)+: m/z=556

reactant | 3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]pentanal | 0.0008 mol, 300 mg | C[Si](CCOCN1C=CC2=C1N=CN=C2C=2C=NN(C2)C(CC=O)CC)(C)C | C20H29N5O2Si
reactant | DCM | 0.06 mol, 4 mL | C(Cl)Cl | CH2Cl2
reactant | triphenylphosphine | 0.003 mol, 800 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 0.002 mol, 500 mg | C(Br)(Br)(Br)Br | CBr4
solvent | water | O | H2O
product | 4-[1-(4,4-dibromo-1-ethylbut-3-en-1-yl)-1H-pyrazol-4-yl]-7-[2-(trimethylsilyl)-ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidine | 50 mg, 10% | BrC(=CCC(CC)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C)Br | C21H29Br2N5OSi
